US07622464B2
Description 33: 5-Diallylaminomethyl-furan-3-carboxylic acid ethyl ester
To a solution of 5-formyl-3-furancarboxylic acid ethyl ester (prepared as described in Tetrahedron (1996), 52(12), 4245-56) (1.61 g) in dichloromethane (20 ml) was added diallylamine (1.18 ml). The solution was treated with glacial acetic acid (0.55 ml) and then sodium triacetoxyborohydride (4.2 g). The suspension was stirred at room temperature for 3.5 h. The suspension was treated with ethanol (80 ml) and stirred at room temperature for 25 mins. The solvent was removed in vacuo. The residue was partitioned between ethyl acetate (200 ml) and saturated aqueous sodium hydrogen carbonate (100 ml). The phases were separated and the organic phase washed with saturated aqueous sodium hydrogen carbonate (100 ml) and brine (50 ml). The combined aqueous phases were extracted with ethyl acetate (50 ml). The combined organic extracts were dried (MgSO4), filtered and the solvent removed in vacuo. The residue was dissolved in methanol and applied equally onto SCX sulphonic acid ion exchange cartridges (10 g×4, pre-treated with methanol). The cartridges were eluted with methanol followed by 10% 0.880 ammonia in methanol; evaporation of the basic fractions in vacuo gave the title compound as a mobile oil (2.06 g).

reactant | 5-formyl-3-furancarboxylic acid ethyl ester | 1.61 g | C(C)OC(=O)C1=COC(=C1)C=O | C8H8O4
reactant | diallylamine | 1.18 ml | C(C=C)NCC=C | C6H11N
reactant | acetic acid | 0.55 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 5-Diallylaminomethyl-furan-3-carboxylic acid ethyl ester | 2.06 g | C(C)OC(=O)C1=COC(=C1)CN(CC=C)CC=C | C14H19NO3
